US08008334B2
8 2,6-Difluoro-4-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)benzonitrile
starting from 6,7-dihydro-5H-imidazo[1,5-a]pyridinone [426219-51-4] and 2,6-difluoro-4-iodobenzonitrile [141743-50-2]

reactant | 6,7-dihydro-5H-imidazo[1,5-a]pyridinone | C1(N=CN2C1=CCCC2)=O | C7H8N2O
reactant | 2,6-difluoro-4-iodobenzonitrile | FC1=C(C#N)C(=CC(=C1)I)F | C7H2F2IN
product | 2,6-Difluoro-4-(5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)benzonitrile | FC1=C(C#N)C(=CC(=C1)C1C=2N(CCC1)C=NC2)F | C14H11F2N3
